US05834493
iii) 5-Methoxy-3-(N-ethoxycarbonyl-1,2,5,6-tetrahydro-pyridin-3-ylmethyl)-1H-indole
Ethyl chloroformate (5.74 ml; 0.060 mol) was added to a mixture of 5-methoxy-3-(N-benzyl-1,2,5,6-tetrahydro-pyridin-3-ylmethyl)-1H-indole (4 g; 0.012 mol) in toluene (430 ml). The reaction mixture was heated at 75° C. for 3 hours. The reaction mixture was then cooled and the desired compound was obtained after evaporation of the solvent. The compound was used as such without further purifiction.

reactant | Ethyl chloroformate | 0.060 mol, 5.74 ml | ClC(=O)OCC | C3H5ClO2
reactant | 5-methoxy-3-(N-benzyl-1,2,5,6-tetrahydro-pyridin-3-ylmethyl)-1H-indole | 0.012 mol, 4 g | COC=1C=C2C(=CNC2=CC1)CC=1CN(CCC1)CC1=CC=CC=C1 | C22H24N2O
solvent | toluene | 430 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Methoxy-3-(N-ethoxycarbonyl-1,2,5,6-tetrahydro-pyridin-3-ylmethyl)-1H-indole | COC=1C=C2C(=CNC2=CC1)CC=1CN(CCC1)C(=O)OCC | C18H22N2O3
